US08497278B2
4-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (124)
The title compound was prepared according to Method B and the experimentals described for compound 92 from 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride and 2H-benzo[b][1,4]oxazin-3(4H)-one. M/e+ 390 for C22H17ClN3O2 (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 8.32 (d, J=6.9 Hz, 1H), 7.61 (d, J=8.4 Hz, 2H), 7.53 (m, 3H), 7.19 (ddd, J=9.1, 6.9, 1,1 Hz, 1H), 6.82 (m, 3H), 6.48 (m, 1H), 6.26 (d, J=7.7 Hz, 1H), 5.68 (s, 2H), 4.60 (s, 2H) ppm.

reactant | 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl
reactant | 2H-benzo[b][1,4]oxazin-3(4H)-one | O1C2=C(NC(C1)=O)C=CC=C2 | C8H7NO2
product | 4-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CN1C2=C(OCC1=O)C=CC=C2 | C22H16ClN3O2
